US07417047B2
Step b) Preparation of 4-[(3-Bromophenyl)(oxo)acetyl]-1H-pyrrole-2-carbaldehyde
To DMSO was added 4-[(3-bromophenyl)ethynyl]-1H-pyrrole-2-carbaldehyde (1.50 g; 5.47 mmol), and palladium(II)chloride (97 mg; 0.547 mmol). The resulting solution was stirred at 140° C. for one hour. The mixture was cooled to ambient temperature and diluted with water. The product was extracted into chloroform and dried over MgSO4. The resulting solid was chromatographed on silica gel using 7:3 hexane:ethyl acetate to give 1.21 g of the title compound as a greenish crystalline solid (72% yield), mp 202-203° C.; MS (ES) m/z 304.0, [M−H]−.

reactant | DMSO | CS(=O)C | C2H6OS
reactant | 4-[(3-bromophenyl)ethynyl]-1H-pyrrole-2-carbaldehyde | 5.47 mmol, 1.50 g | BrC=1C=C(C=CC1)C#CC=1C=C(NC1)C=O | C13H8BrNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
catalyst | palladium(II)chloride | 0.547 mmol, 97 mg | [Pd](Cl)Cl
product | 4-[(3-Bromophenyl)(oxo)acetyl]-1H-pyrrole-2-carbaldehyde | 1.21 g, 72% yield | BrC=1C=C(C=CC1)C(C(=O)C=1C=C(NC1)C=O)=O | C13H8BrNO3
